US07855194B2
(4,6-Dimethyl-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(4,6-dimethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.47 g, 4.80 mmol) in ethanol (20 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 207.3 [M+H]+.

reactant | 4-(4,6-dimethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.80 mmol, 1.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC(=N1)C)C | C16H26N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (4,6-Dimethyl-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.CC1=NC(=NC(=C1)C)NC1CCNCC1 | InChI=1S/C11H18N4.2ClH/c1-8-7-9(2)14-11(13-8)15-10-3-5-12-6-4-10;;/h7,10,12H,3-6H2,1-2H3,(H,13,14,15);2*1H
